US08877934B2
Step A: 4-Chloro-2-methoxy-6-methyl-pyrimidine
To anhydrous methanol (10 ml) was added sodium (230 mg, 10 mmol) and the mixture was stirred under an argon atmosphere until a clear solution had formed. This solution was added dropwise over two hours with stirring to a solution of 2,4-dichloro-6-methylpyrimidine (1.79 g, 11 mmol) in anhydrous methanol (10 ml) under cooling so that the temperature remained below 10° C. Stirring was continued for 30 minutes, then water was added (2 ml), the mixture was filtered and the filtrate was evaporated to dryness under reduced pressure. The residue was purified by column chromatography (pre-packed silica column, gradient of heptane/ethyl acetate). 750 mg was obtained (4.75 mmol, 47%). MS (APCI) m/z=159.2 [M+H]+.

reactant | sodium | 10 mmol, 230 mg | [Na] | Na
reactant | 2,4-dichloro-6-methylpyrimidine | 11 mmol, 1.79 g | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | water | O | H2O
reactant | methanol | 10 ml | CO | CH4O
reactant | methanol | 10 ml | CO | CH4O
product | 4-Chloro-2-methoxy-6-methyl-pyrimidine | ClC1=NC(=NC(=C1)C)OC | C6H7ClN2O
